US03987182
B. 2'-amino-4'-trifluoromethylisobutyranilide
Shake 85 g. of 2'-nitro-4'-trifluoromethylisobutyranilide in 1.0 liter of ethanol containing 3.0 g. of 5% palladium on charcoal in a parr shaker under approximately 50 lbs. per square inch hydrogen pressure for twenty-four hours. Filter, remove the ethanol and recrystallize from a dichloromethane-chloroform-hexane mixture, obtaining the product of this step.

reactant | 2'-nitro-4'-trifluoromethylisobutyranilide | [N+](=O)([O-])C1=C(NC(C(C)C)=O)C=CC(=C1)C(F)(F)F | C11H11F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.0 liter, 3.0 g | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2'-amino-4'-trifluoromethylisobutyranilide | NC1=C(NC(C(C)C)=O)C=CC(=C1)C(F)(F)F | C11H13F3N2O
